US07098337B2
(R)-6-Chloro-9-formyl-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert
N,N-Dimethylformamide (10 ml) was cooled to 1 deg C. and treated dropwise with 5.1 ml (56.0 mmol) phosphorus oxychloride. After the addition the temperature was again cooled to 1 deg C. and a solution of 1.0 g (3.11 mmol) (R)-6-chloro-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester in (Example 2, intermediate a) in 10 ml N,N-dimethylformamide was added. The cooling bath was removed and after 1.5 h at room temperature the reaction mixture was poured into saturated aqueous sodium bicarbonate solution and was extracted three times with ethyl acetate. The combined organic phases were washed with water and brine, dried over magnesium sulfate, filtered and evaporated. The residue was purified by chromatography on silica gel (0.032–0.063 mm) with ethyl acetate:n-hexane (1:3) as eluant to yield the desired compound as a yellow foam (55.2%).

reactant | phosphorus oxychloride | 56.0 mmol, 5.1 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | (R)-6-chloro-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 3.11 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC2=CC3=CC=C(N=C3N2[C@@H](C1)C)Cl | C16H20ClN3O2
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | N,N-Dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (R)-6-Chloro-9-formyl-4-methyl-3,4-dihydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid | 55.2% | ClC=1N=C2N3[C@@H](CN(CC3=C(C2=CC1)C=O)C(=O)O)C | C13H12ClN3O3
